US06906089B2
1-Benzo[1,2,5]thiadiazol-5-yl-2-(6-methyl-pyridin-2-yl)-ethane1,2-dione
1-Benzo[1,2,5]thiadiazol-5-yl -2-(6-methyl-pyridin-2-yl)-ethanone (5.88 g, 21.8 mmol) was dissolved in dimethyl sulfoxide (50 ml) heated to 60° C. Hydrogen bromide (7.1 ml of a 48% solution in water) was added dropwise and the reaction stirred for 3 hours at 60° C. The cooled reaction was poured into water (100 ml) and the pH adjusted to pH 8 with saturated sodium bicarbonate solution. The organic product was extracted into ethyl acetate (3×100 ml), dried over anhydrous magnesium sulfate and evaporated to dryness under reduced pressure (5.19 g, 84%); 1H NMR (250 MHz, CDCl3) δ: 2.47 (3H, s), 7.40 (1H, d), 7.85 (1H, t), 8.06 (1H, d), 8.15 (1H, d), 8.28 (1H, d), 8.45 (1H, s); m/z(API) 284 (M+H+, 100%).

reactant | 1-Benzo[1,2,5]thiadiazol-5-yl -2-(6-methyl-pyridin-2-yl)-ethanone | 21.8 mmol, 5.88 g | N1=C2C(=NS1)C=C(C=C2)C(CC2=NC(=CC=C2)C)=O | C14H11N3OS
reactant | Hydrogen bromide | Br | BrH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | water | 100 ml | O | H2O
product | 1-Benzo[1,2,5]thiadiazol-5-yl-2-(6-methyl-pyridin-2-yl)-ethane1,2-dione | N1=C2C(=NS1)C=C(C=C2)C(C(=O)C2=NC(=CC=C2)C)=O | C14H9N3O2S
